US07572459B2
Preparation of N,N-Dimethyl-N-dodecylammonium-N-ethylurea Terminated Dendrimers
2-Chloroethylisocyanate (0.2 ml; 2 mmol) was added to a solution of BHAlyslys2lys4lys8lys16.32CF3COOH (300 mg) in dry DMSO (5 ml) and then N,N-Dimethyl-N-dodecylamine (3.0 ml) was added and the solution stirred overnight at room temperature under nitrogen. The resulting inhomogeneous mixture was then heated at 80° C. for 3 days. The mixture was then cooled and concentrated under high vacuum to give viscous oil. The crude product was purified by gel filtration (Sephadex LH20; 2.5×50 cm; MeOH) to give the product as a viscous oil.

reactant | 2-Chloroethylisocyanate | 2 mmol, 0.2 ml | ClCCN=C=O | C3H4ClNO
reactant | N,N-Dimethyl-N-dodecylamine | 3.0 ml | CN(CCCCCCCCCCCC)C | C14H31N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | N,N-Dimethyl-N-dodecylammonium N-ethylurea | C[NH+](CCCCCCCCCCCC)C.C(C)NC(=O)N | InChI=1S/C14H31N.C3H8N2O/c1-4-5-6-7-8-9-10-11-12-13-14-15(2)3;1-2-5-3(4)6/h4-14H2,1-3H3;2H2,1H3,(H3,4,5,6)/p+1
